US03965143
To a solution consisting of 2.77 parts of 9-chloro-5-nonyn-2-one in 8 parts by volume of ethanol is added a solution containing 2.77 parts of sodium cyanide, dissolved in 4 parts of water. The resulting reaction mixture is heated at 80°-100° for about 24 hours, then is cooled and diluted with ether, whereupon 20 parts by volume of dilute aqueous sodium hydroxide is added with stirring. The layers are separated and the alkaline layer is extracted with ether. The ether extracts are combined, then washed with water, dried over anhydrous sodium sulfate and concentrated under reduced pressure to afford 9-cyano-5-nonyn-2-one. This compound exhibits an infrared absorption maximum at 2250 reciprocal centimeters and nuclear magnetic resonance peak at δ2.81 and δ2.50.

reactant | 9-chloro-5-nonyn-2-one | ClCCCC#CCCC(C)=O | C9H13ClO
reactant | ethanol | C(C)O | C2H6O
reactant | sodium cyanide | [C-]#N.[Na+]
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
solvent | sodium hydroxide | [OH-].[Na+]
product | 9-cyano-5-nonyn-2-one | C(#N)CCCC#CCCC(C)=O | C10H13NO
